US04933355
2-Cyclopropylaminothiazole-4-carbaldehyde
The reaction described in Preparation 44 was repeated, but using 1.1 g of 2-cyclopropylaminothiazol-4-ylmethanol, 3.1 g of sulfur trioxide pyridine complex, 2 g of triethylamine and 15 ml of dimethyl sulfoxide, giving the title compound as pale yellow prisms.

reactant | 2-cyclopropylaminothiazol-4-ylmethanol | 1.1 g | C1(CC1)NC=1SC=C(N1)CO | C7H10N2OS
reactant | triethylamine | 2 g | C(C)N(CC)CC | C6H15N
solvent | dimethyl sulfoxide | 15 ml | CS(=O)C | C2H6OS
product | 2-Cyclopropylaminothiazole-4-carbaldehyde | C1(CC1)NC=1SC=C(N1)C=O | C7H8N2OS
